US06919356B2
Part G: Preparation of 1-(5-acetyl-4-methylthiazol-2-yl)-3-{1-[2-(4-fluorophenyl)ethyl]-piperidin-3-ylmethyl}urea
A solution of C-{1-[2-(4-fluorophenyl)ethyl]-piperidin-3-yl}methylamine (25 mg, 106 μmol), (5-Acetyl-4-methylthiazol-2-yl)-carbamic acid phenyl ester (24 mg, 106 μmol) and triethylamine (29 μL, 210 μmol) in acetonitrile (3 mL) was stirred for 18 hours and concentrated. The residue was purified by flash chromatography, eluting with 5% methanol in dichloromethane, to provide an off-white solid (30 mg, 68%). 1H NMR (300 MHz, CD3OD) δ7.21 (m, 2H), 6.98 (t, J=9 Hz, 2H), 3.16 (m, 2H), 3.02 (m, 2H), 2.82 (m, 2H), 2.61 (m, 2H), 2.56 (s, 3H), 2.47 (s, 3H), 2.09 (m, 1H), 1.85 (m, 4H), 1.65 (m, 1H), 1.05 (m, 1H). Mass spec (ES+) m/z 419.2 (M+H+, 100%).

reactant | C-{1-[2-(4-fluorophenyl)ethyl]-piperidin-3-yl}methylamine | 106 μmol, 25 mg | FC1=CC=C(C=C1)CCN1CC(CCC1)CN | C14H21FN2
reactant | (5-Acetyl-4-methylthiazol-2-yl)-carbamic acid phenyl ester | 106 μmol, 24 mg | C1(=CC=CC=C1)OC(NC=1SC(=C(N1)C)C(C)=O)=O | C13H12N2O3S
reactant | triethylamine | 210 μmol, 29 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 1-(5-acetyl-4-methylthiazol-2-yl)-3-{1-[2-(4-fluorophenyl)ethyl]-piperidin-3-ylmethyl}urea | 30 mg, 68% | C(C)(=O)C1=C(N=C(S1)NC(=O)NCC1CN(CCC1)CCC1=CC=C(C=C1)F)C | C21H27FN4O2S
